US08859777B2
Step 1: Preparation of tert-Butyl 4-hydroxy-4-(3-methoxyphenyl)piperidine-1-carboxylate.
This compound was prepared from tert-Butyl 4-oxopiperidine-1-carboxylate and 3-methoxyphenylmagnesium bromide as described in Step 1 of Example 6 in 55% yield.

reactant | tert-Butyl 4-oxopiperidine-1-carboxylate | O=C1CCN(CC1)C(=O)OC(C)(C)C | C10H17NO3
reactant | 3-methoxyphenylmagnesium bromide | COC=1C=C(C=CC1)[Mg]Br
product | tert-Butyl 4-hydroxy-4-(3-methoxyphenyl)piperidine-1-carboxylate | 55% yield | OC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC(=CC=C1)OC | C17H25NO4
